US05861510
To a solution of 1-(4-methoxybenzenesulfonyl)-5-oxo-piperazine-2-carboxylic acid (166 mg, 0.53 mmol) in methylene chloride (5 ml) is added 0-benzyl hydroxylamine hydrochloride (255 mg, 1.6 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (153 mg, 0.8 mmol) and triethylamine (370 μL 2.65 mmol). The resulting mixture is stirred overnight, diluted with ethyl acetate and washed with 1N hydrocloric acid. The organic layer is dried (sodium sulfate), filtered and concentrated. The crude product is purified by silica gel chromatography (elution with 5% methanol in methylene chloride) to provide N-(benzyloxy)-1-(4-methoxybenzenesulfonyl)-5-oxo-piperazine-2-carboxamide.

reactant | 1-(4-methoxybenzenesulfonyl)-5-oxo-piperazine-2-carboxylic acid | 0.53 mmol, 166 mg | COC1=CC=C(C=C1)S(=O)(=O)N1C(CNC(C1)=O)C(=O)O | C12H14N2O6S
reactant | 0-benzyl hydroxylamine hydrochloride | 1.6 mmol, 255 mg | C1=CC=C(C=C1)CON.Cl
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.8 mmol, 153 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 2.65 mmol, 370 μL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(benzyloxy)-1-(4-methoxybenzenesulfonyl)-5-oxo-piperazine-2-carboxamide | C(C1=CC=CC=C1)ONC(=O)C1N(CC(NC1)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C19H21N3O6S
